US07576109B2
To a solution of [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol (1.0 g, 3.1 mmol) in dichloromethane (50 mL) add triethylamine (0.88 mL) and methanesulfonyl chloride (0.39 mL). Stir the reaction mixture at room temperature for a period of three hours then add dichloromethane (100 mL). Wash the reaction mixture with a saturated aqueous solution of NaHCO3 (50 mL), water and brine. Dry the organic layer over MgSO4 and remove the solvent under reduced pressure to give 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole (1.0 g) as a yellow oil.

reactant | [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol | 3.1 mmol, 1.0 g | C(CCC)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H16F3NOS
reactant | triethylamine | 0.88 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.39 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 1.0 g | C(CCC)C=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C15H15ClF3NS
